US05929117
3-(3,4-Dimethoxyphenyl)-3-(3',5'-dimethoxyphenyl)acrylonitrile was prepared analogously to methyl 3,3-bis-(3,4-dimethoxyphenyl)acrylate using 3,4,3',5'-tetramethoxybenzophenone (0.7 g, 2.3 mmol), diethylcyanomethylphosphonate (0.42 mL, 2.5 mmol) and lithium hexamethyldisilazide (1.9 mL, 2.5 mmol, 1.3M) with a reaction time of 60 hours at room temperature. The crude product was purified by flash chromatography (silica gel, 1% ethyl acetate/methylene chloride) to afford 0.66 g (81%) of a mixture of the E and Z isomers as a white solid: mp 88-90° C.; 1H NMR (CDCl3) δ 7.10-6.80 (m, 6 H), 6.61-6.40 (m, 6H), 5.66 (s, 1H), 5.61 (s, 1H), 3.94 (s, 3H), 3.91 (s, 3H), 3.87 (s, 3 H), 3.84 (s, 3H), 3.80 (s, 3H), 3.77 (s, 6H); 13C NMR (CDCl3) δ 162.7, 162.5, 160.7, 160.6, 151.1, 150.6, 148.8, 148.5, 141.3, 138.9, 131.1, 129.2, 123.2, 122.1, 118.2, 118.0, 112.6, 110.9, 110.7, 110.7, 107.6, 107.0, 102.1, 102.0, 93.4, 93.1, 56.0, 55.9, 55.5, 55.4; Anal. Calcd for C19H19NO4. Theoretical: C, 70.14; H, 5.89; N, 4.30. Found: C, 70.33; H, 5.89; N, 4.03.

reactant | methyl 3,3-bis-(3,4-dimethoxyphenyl)acrylate | COC=1C=C(C=CC1OC)C(=CC(=O)OC)C1=CC(=C(C=C1)OC)OC | C20H22O6
reactant | 3,4,3',5'-tetramethoxybenzophenone | 2.3 mmol, 0.7 g | COC=1C=C(C(=O)C2=CC(=CC(=C2)OC)OC)C=CC1OC | C17H18O5
reactant | diethylcyanomethylphosphonate | 2.5 mmol, 0.42 mL | C(C)OP(OCC)(=O)CC#N | C6H12NO3P
reactant | lithium hexamethyldisilazide | 2.5 mmol, 1.3M, 1.9 mL | C[Si]([N-][Si](C)(C)C)(C)C.[Li+]
product | 3-(3,4-Dimethoxyphenyl)-3-(3',5'-dimethoxyphenyl)acrylonitrile | COC=1C=C(C=CC1OC)C(=CC#N)C1=CC(=CC(=C1)OC)OC | C19H19NO4
